US06921762B2
A mixture of 8-(4-fluorophenyl)-5-methylthio-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine (1.0 g, 3.0 mmole), potassium carbonate (1.5 g) and (2S)-3-phenylpropane-1,2-diamine (540 mg, 3.6 mmole) in 50 ml of DMF was stirred at room temperature (RT) for 48 hours. The reaction solution was poured into water (200 mL), and the resulting precipitate was filtered and washed with water. The crude product was purified by flash chromatography (3%-15% MeOH/NH3 in DCM) to provide 1-(8-(4-fluorophenyl)-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidin-5-yl)amino-2(S)-amino-3-phenylpropane was obtained as white solid; MS: m/z (M+H)+ 440.1; C25H22FN7 requir. 439.5.

reactant | 8-(4-fluorophenyl)-5-methylthio-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine | 3.0 mmole, 1.0 g | FC1=CC=C(C=C1)C=1C=2N(C(=NC1C1=CC=NC=C1)SC)C=NN2 | C17H12FN5S
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2S)-3-phenylpropane-1,2-diamine | 3.6 mmole, 540 mg | C1(=CC=CC=C1)C[C@@H](CN)N | C9H14N2
reactant | water | 200 mL | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(8-(4-fluorophenyl)-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidin-5-yl)amino-2(S)-amino-3-phenylpropane | FC1=CC=C(C=C1)C=1C=2N(C(=NC1C1=CC=NC=C1)NC[C@H](CC1=CC=CC=C1)N)C=NN2 | C25H22FN7
